* C:\users\leonardo\Desktop\FSAE\inverter-simulation\main-attempt\inverter-spice.asc
V1 N002 N014 400
R3 N003 N002 10m
R4 N015 N014 10m
L3 N004 N003 1n
L4 N008 N015 1n
R1 N005 N004 10m
R5 N009 N008 10m
R2 N011 N004 10m
R6 N016 N008 10m
L1 N001 N005 1u
L5 0 N009 1u
L2 N012 N011 1u
L6 0 N016 1u
C2 N012 0 320u
C1 N001 0 320u
R7 N001 N007 10
R8 N006 N013 5
L7 N007 N010 10u
XZ1 N010 N013 0 irgb4060dpbf
V2 N006 0 PULSE(0 25 0 0 0 0.0000625 0.000125)
.lib irgb4060dpbf.spi
.tran 0 0.002 0 50u
.backanno
.end
